US05093328
To a solution of (2S,4S)-1-methyl-2-acetoxymethyl-4-acetylthiopyrrolidine (231 mg) in methanol (2.4 ml), a solution of sodium methoxide (130 mg) in methanol (1.4 ml) was added at room temperature under nitrogen stream, and the resultant mixture was stirred at the same temperature for 19 minutes. The reaction mixture was combined with conc. hydrochloric acid (375 mg), followed by removal of the solvent. The residue was dissolved in a mixture of chloroform and methanol (4:1) and dried over magnesium sulfate. Removal of the solvent gave (2S,4S)-1-methyl-2-hydroxymethyl-4-mercaptopyrrolidine hydrochloride.

reactant | (2S,4S)-1-methyl-2-acetoxymethyl-4-acetylthiopyrrolidine | 231 mg | CN1[C@@H](C[C@@H](C1)SC(C)=O)COC(C)=O | C10H17NO3S
reactant | sodium methoxide | 130 mg | C[O-].[Na+]
reactant | hydrochloric acid | 375 mg | Cl | ClH
solvent | methanol | 2.4 ml | CO | CH4O
solvent | methanol | 1.4 ml | CO | CH4O
product | (2S,4S)-1-methyl-2-hydroxymethyl-4-mercaptopyrrolidine hydrochloride | Cl.CN1[C@@H](C[C@@H](C1)S)CO | InChI=1S/C6H13NOS.ClH/c1-7-3-6(9)2-5(7)4-8;/h5-6,8-9H,2-4H2,1H3;1H/t5-,6-;/m0./s1
